US06252075B1
Acetic anhydride (4.44 ml, 45.1 mmols) and 132.8 mg (0.598 mmols) of p-toluenesulfonic acid monohydrate were added to a solution of 4.37 g (13.9 mmols) of 7-benzylguanine dihydrochloride in 9 ml of acetic acid. The mixture was reacted at 105° C. for 3 hours, and then allowed to cool. Water (180 ml) was poured into the reaction solution, and 150 ml of a 5-% sodium hydrogencarbonate aqueous solution and 100 ml of a 1−N sodium hydroxide aqueous solution were added thereto to adjust the pH to 5.3. Crystals were filtered, washed with 50 ml of water, and then dried at 55° C. for 5 hours under reduced pressure to obtain 3.77 g (13.3 mmols) of N2-acetyl-7-benzylguanine as a white solid in a yield of 95.7%.

reactant | Acetic anhydride | 45.1 mmols, 4.44 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-benzylguanine dihydrochloride | 13.9 mmols, 4.37 g | Cl.Cl.C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N
reactant | sodium hydrogencarbonate | 150 ml | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
catalyst | p-toluenesulfonic acid monohydrate | 0.598 mmols, 132.8 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Water | 180 ml | O | H2O
product | N2-acetyl-7-benzylguanine | 13.3 mmols, 3.77 g, yield of 95.7% | C(C)(=O)NC=1NC(C=2N(C=NC2N1)CC1=CC=CC=C1)=O | C14H13N5O2
